US07834039B2
A solution of pyrazin-2-amine (3.6 g, 37.9 mmol) and ethyl 2-chloro-3-oxobutanoate (5.24 ml, 37.9 mmol) in ethanol (30 ml) was heated at reflux for 9 hours. A 1N solution of HCl in ether was added and the mixture was concentrated under reduced pressure. The residue was triturated with 3×50 ml acetonitrile and filtered to yield crude 2-Methyl-imidazo[1,2-a]pyrazine-3-carboxylic acid ethyl ester (4.5 g, 58%) as an amorphous solid which was used in the next step without further purification.

reactant | pyrazin-2-amine | 37.9 mmol, 3.6 g | N1=C(C=NC=C1)N | C4H5N3
reactant | ethyl 2-chloro-3-oxobutanoate | 37.9 mmol, 5.24 ml | ClC(C(=O)OCC)C(C)=O | C6H9ClO3
reactant | HCl | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 2-Methyl-imidazo[1,2-a]pyrazine-3-carboxylic acid ethyl ester | 4.5 g, 58% | C(C)OC(=O)C1=C(N=C2N1C=CN=C2)C | C10H11N3O2
